US06583135B2
tert-Butyl 1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.170 g, 0.594 mmol) and 2-chloroethyl phenyl sulfoxide (0.225 g, 1.20 mmol, 2.0 equiv.) was dissolved in DMF (10 mL) at rt. NaH (0.100 mg, 2.5 mmol, 4.21 equiv., 60% dispersion) was added, then the reaction mixture was stirred for 3 h. The reaction was quenched with a saturated aqueous NH4Cl solution and partitioned between water and CH2Cl2. The aqueous layer was extracted with CH2Cl2 (3×). The combined organic layers were concentrated and the residue was dissolved in EtOAc, dried over MgSO4, filtered, and concentrated. The crude product was chromatographed (Biotage 12m SiO2 column, eluted with a 20% to 30% EtOAc in hexane gradient) to give tert-butyl 6-[2-(phenylsulfinyl)ethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate.

reactant | tert-Butyl 1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.594 mmol, 0.170 g | C1CN(CCC=2NC=3C=CC=CC3C21)C(=O)OC(C)(C)C | C17H22N2O2
reactant | 2-chloroethyl phenyl sulfoxide | 1.20 mmol, 0.225 g, 2.0 equiv. | C1(=CC=CC=C1)S(=O)CCCl | C8H9ClOS
reactant | NaH | 2.5 mmol, 0.100 mg, 4.21 equiv. | [H-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl 6-[2-(phenylsulfinyl)ethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | C1(=CC=CC=C1)S(=O)CCN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C25H30N2O3S
